US05405851
To a solution of 3-bromobiphenyl (18 g, 77 mmol) in diethyl ether (150 ml) under N2 cooled to -78° C. was added 1.6M t-butyl lithium in pentane (100 ml, 0.16 mole) via cannula over a 15 minute period. The solution was stirred 30 minutes at -78° C., ethylene oxide (9 g, 0.2 mole added and the reaction mixture allowed to warm to room temperature over a 1 hour period. The solution was boiled briefly to drive off excess ethylene oxide, transferred to a separatory funnel, a small volume of water added, and neutralized with concentrated HCl. The organic solution was dried (MgSO4), concentrated in vacuo and the residue purified by chromatography on silica gel eluting with ethyl acetate:hexane (1:4) to give 2-(3-biphenylyl)ethanol (10.5 g). 1H NMR (CDCl3, 60 MHz) δ: 2.81 (t, J=7 Hz, 2H, CH2), 3.76 (t, J=7 Hz, 2H, CH2), 6.95-7.70 (m, 9H, Ar).

reactant | 3-bromobiphenyl | 77 mmol, 18 g | BrC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Br
reactant | t-butyl lithium | 1.6M | C(C)(C)(C)[Li]
reactant | pentane | 0.16 mole, 100 ml | CCCCC | C5H12
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | HCl | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-(3-biphenylyl)ethanol | 10.5 g | C1(=CC(=CC=C1)CCO)C1=CC=CC=C1 | C14H14O
